US05696117
3,4-Dihydro-2-(2-hydroxyethyl)-4-(2-methoxybenzyl)-3-oxo-2H-1,4-benzoxazine
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine by methods F and G, alkylating with the methanesulfonate ester of 2-methoxybenzyl alcohol, in 47% overall yield as a light yellow gum after flash chromatography, eluting with EtOAc/hexanes, IR (Neat) 3436, 2941, 1583, 1683, 1501, 1466, 1403, 1281, 1246, 1113, 1052, 751 cm-1 ; 1H NMR (CDCl3) δ2.18-2.36 (m, 2H), 2.39 (br t, J=6.0 Hz, 1H), 3.90 (s, 3H), 3.92 (br q, J=5.5 Hz, 2H), 4.85 (dd, J=7.4, 5.7 Hz, 1H), 5.15 (s, 2H), 6.81-7.03 (m, 7H), 7.23 (td, J=8.3, 1.7 Hz, 1H); MH+ at m/z=314; Anal. Calc'd for C18H19NO4.0.2 H2O: C, 68.21; H, 6.17; N, 4.42. Found: C, 68.36; H, 6.18; N, 4.36.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC=C2 | C16H25NO3Si
reactant | 2-methoxybenzyl alcohol | COC1=C(CO)C=CC=C1 | C8H10O2
product | 3,4-Dihydro-2-(2-hydroxyethyl)-4-(2-methoxybenzyl)-3-oxo-2H-1,4-benzoxazine | OCCC1OC2=C(N(C1=O)CC1=C(C=CC=C1)OC)C=CC=C2 | C18H19NO4
